Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
assault
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMHx of anxiety,
substance abuse, and ADHD who presented to the ED after
apparently being assaulted and having his medications stolen.
According to the ED signout, he was brought in by ambulance from
___ requesting his seizure medication (alprazolam) after missing
two doses. Their report states he took 400 mg of Seroquel.

He was febrile and tachycardic in the ED. He was found to have 
an
erythematous rash on his right leg concerning for cellulitis. He
was somnolent but arousable. Labs were notable for a WBC 14, Hgb
11, Na 131, Bicarb 17, and mildly elevated ALT/AST. A CXR and CT
of the head were unremarkable.

On arrival to the floor, the patient remains somnolent but
arouses easily. He cannot carry on a conversation due to his
somnolence and cannot provide a detailed history. He said he
feels "eh." He reports that people broke into his apartment
twice. He has feet and back pain, as well as fevers and chills
which he attributes to missing doses of his medications.

He tells me that he took 4 doses of hydroxyzine this morning for
anxiety because he did not have alprazolam. He is concerned that
he has not taken his usual Zyprexa, Prozac, gabapentin, and
Subutex. He states that he has not injected drugs for ___ years. 
He
denies any other recent substance use.

Additional history obtained on ___:
He tells me that he lives in ___ and had time off this week 
so decided that he wanted to spend the day in ___. He took 
the train into ___ and was "jumped". He reports he was beat 
up- hit in the head and he hit his head on the ground. His 
money, ID and medications were stolen. He states he filed a 
police report for the missing medications. When asked why he had 
all of his medications with him, he says because he takes 
medications three times per day, he often carries medications 
with him. He previously had medications stolen at his house so 
is worried about leaving pills at home. After his assault, he 
was worried about not having his medication so took 400mg of 
Seroquel which he was previously prescribed but does not 
currently take. He then presented to a ___ to see if he could 
get a refill on medications and was advised that he had to go to 
the emergency department. The patient was feeling more sleepy, 
worried about his assault and therefore asked ___ to call an 
ambulance. He says he doesn't remember everything that happened.
He denies headache currently. Feels a like he is withdrawing as 
he has not received his medications today. He denies fevers or 
chills. Does have throbbing right leg pain and feels that both 
of his legs are swollen. 

 
Past Medical History:
- Depression
- ?Bipolar disorder
- ADHD
- Acid Reflux
- History of IVDU

 
Social History:
___
Family History:
Significant for diabetes.
 
Physical Exam:
EXAM(>=2)
VITALS: ___ 0754 Temp: 98.3 PO BP: 101/60 HR: 64 RR: 18 O2
sat: 93% O2 delivery: RA 
GENERAL: Alert and in no apparent distress. + Diaphoretic
EYES: Anicteric, pupils equally round, react to light dilated to
8mm
ENT: Ears and nose without visible erythema, masses, or trauma +
dried blood on left ear.  Oropharynx without visible lesion,
erythema or exudate. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength exam limited 
by
leg pain
SKIN: +erythema of right leg with significant tenderness, within
marked lines.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. CN II- XII intact
PSYCH: pleasant, appropriate affect, denies SI, reports mood is
good.

Physical Exam on discharge:
EXAM(>=2)
VITALS: ___ 0700 Temp: 97.6 PO BP: 120/80 HR: 57 RR: 18 O2
sat: 95% O2 delivery: RA 
GENERAL: Alert and in no apparent distress. Speaking in full
sentences
EYES: Anicteric, pupils equally round, react to light, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without very poor dentition and rotting tooth in left
lower mandible
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, full ROM of ankle and
ROM of knee.
SKIN: +resolving erythema of right leg with minimal tenderness
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. CN II- XII intact
PSYCH: pleasant, appropriate affect, denies SI, reports mood is
good.

 
Pertinent Results:
___ 06:54PM   LACTATE-1.1
___ 06:41PM   GLUCOSE-121* UREA N-13 CREAT-0.8 SODIUM-131* 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-17* ANION GAP-16
___ 06:41PM   estGFR-Using this
___ 06:41PM   ALT(SGPT)-41* AST(SGOT)-46* ALK PHOS-110 TOT 
BILI-1.1
___ 06:41PM   LIPASE-8
___ 06:41PM   ALBUMIN-4.2 CALCIUM-8.7 PHOSPHATE-4.3 
MAGNESIUM-2.3
___ 06:41PM   ASA-NEG tricyclic-NEG
___ 06:41PM   WBC-14.3* RBC-3.85* HGB-11.0* HCT-32.6* 
MCV-85 MCH-28.6 MCHC-33.7 RDW-13.9 RDWSD-42.6
___ 06:41PM   NEUTS-73.9* LYMPHS-9.9* MONOS-14.0* EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-10.60* AbsLymp-1.42 AbsMono-2.01* 
AbsEos-0.17 AbsBaso-0.06
___ 06:41PM   HYPOCHROM-1+* ANISOCYT-1+* POIKILOCY-1+* 
MACROCYT-NORMAL MICROCYT-OCCASIONAL POLYCHROM-NORMAL 
OVALOCYT-1+* BURR-OCCASIONAL TEARDROP-1+* ACANTHOCY-1+*
___ 06:41PM   PLT SMR-NORMAL PLT COUNT-307

Imaging: ___
Head CT:
IMPRESSION:  
No acute intracranial process.  No evidence of intracranial 
hemorrhage. 

Chest Xray:
IMPRESSION:  
No acute intrathoracic process, specifically no evidence of 
consolidations to suggest pneumonia. 

Tib/Fib Xray: ___
FINDINGS:  
  
No fracture is detected in the tibia or fibula. No suspicious 
lytic lesion, 
sclerotic lesion, or periosteal new bone formation is detected. 
No soft tissue 
calcification or radio-opaque foreign bodies are detected. 
Limited assessment 
of the knee and ankle joint is unremarkable. 
  
IMPRESSION:  
No fracture 

MICRO:
Blood culture ___ x3- No growth to date

 
Brief Hospital Course:
Mr. ___ is a ___ male with an unclear past medical history who
presents with altered mental status and cellulitis.

#Acute toxic/metabolic encephalopathy
#Depression/Questionable Bipolar
In setting of taking Seroquel 400mg which the patient is no 
longer prescribed in addition to assault with possible head 
trauma. Head CT negative for acute process and neurologic exam 
with out findings. Unclear why patient took Seroquel or how he
got this medication as it is not prescribed.  Urine toxicology 
screen was negative for opiates, it was positive for cocaine. 
Patient denied cocaine use. His mental status quickly returned 
to baseline. His medication list was confirmed with the PMP. He 
was provided a prescription for 3 alprazolam tablets, 3 Adderal 
tablets and 9 Gabapentin on discharge. Confirmed with the 
practice manager at the patient's psychiatry office that he can 
follow up the day after discharge to discuss how he can get new 
prescriptions. The patient was seen by social work who provided 
the patient with information on applying for mass health. 

#Sepsis (fevers, tachycardia, leukocytosis) due to
#Right leg cellulitis
Patient was started on vancomycin in the ED due to concern for 
endocarditis given his history of IVDU. Continues to deny IVDU. 
The patient was noted to have right leg cellulitis and was 
started on IV Cefazolin. He had an Xray of tib/fib which was 
negative for fracture. His cellulitis improved and he was 
discharged on oral   Keflex for a total of 7 days of 
antibiotics.

#Hyponatremia
Resolved with IVF, will hold additional IVF

#Transaminitis
Resolved. Will not trend

Transitional issues:
- patient given very small quantity of medications and advised 
to follow up at his psychiatrist office the day after discharge 
(discharge summary faxed to office)
- advised to establish care with a PCP and have ___ leg exam 
within ___ weeks of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine 8 mg SL TID 
2. ALPRAZolam 1 mg PO BID anxiety 
3. dextroamphetamine-amphetamine 20 mg oral BID 
4. Gabapentin 900 mg PO TID 
5. FLUoxetine 80 mg PO DAILY 
6. OLANZapine 10 mg PO QHS 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth Q6hrs Disp #*16 
Capsule Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
3.  ALPRAZolam 1 mg PO BID anxiety 
RX *alprazolam 1 mg 1 tablet(s) by mouth twice a day Disp #*3 
Tablet Refills:*0 
4.  Buprenorphine 8 mg SL TID  
5.  dextroamphetamine-amphetamine 20 mg oral BID 
RX *dextroamphetamine-amphetamine 20 mg 1 tablet(s) by mouth 
twice a day Disp #*3 Tablet Refills:*0 
6.  FLUoxetine 80 mg PO DAILY  
7.  Gabapentin 900 mg PO TID 
RX *gabapentin 300 mg 3 capsule(s) by mouth three times a day 
Disp #*9 Capsule Refills:*0 
8.  OLANZapine 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
S/P Assault

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you during your admission to 
___. you were admitted when you were very sleepy after you 
were assaulted. You had an xray of your leg and a CAT scan of 
your head which were negative. You were also found to have an 
infection of your right leg. You were treated with antibiotics 
and improved. You will be discharged with pill antibiotics which 
you should take until they are complete.
Since your medications were stolen, we have given you a short 
supply of your medications. Please go to see your psychiatrist 
tomorrow ___ and they will work with you to get your 
medications refilled. It is important that you take your 
medications as prescribed.

We wish you the best,
Your ___ Care team

 
Followup Instructions:
___